US07714126B2
With a procedure similar to example 43 above, 2-phenyl-5-trifluoromethyl-oxazole-4-carboxylic acid [6-((S)-2-hydroxymethyl-pyrrolidin-1-yl)-pyridin-3-yl]-amide was prepared from 2-phenyl-5-trifluoromethyl-oxazole-4-carboxylic acid and [(S)-1-(5-amino-pyridin-2-yl)-pyrrolidin-2-yl]-methanol. LCMS calcd for C21H19F3N4O3 (m/e) 432, obsd 433 (M+H).

reactant | 2-phenyl-5-trifluoromethyl-oxazole-4-carboxylic acid | C1(=CC=CC=C1)C=1OC(=C(N1)C(=O)O)C(F)(F)F | C11H6F3NO3
reactant | [(S)-1-(5-amino-pyridin-2-yl)-pyrrolidin-2-yl]-methanol | NC=1C=CC(=NC1)N1[C@@H](CCC1)CO | C10H15N3O
product | 2-phenyl-5-trifluoromethyl-oxazole-4-carboxylic acid [6-((S)-2-hydroxymethyl-pyrrolidin-1-yl)-pyridin-3-yl]-amide | OC[C@H]1N(CCC1)C1=CC=C(C=N1)NC(=O)C=1N=C(OC1C(F)(F)F)C1=CC=CC=C1 | C21H19F3N4O3
